US05677305
4-Cyano-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine
First, a mixture containing 490 mg of 4-cyano-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline, 642 mg of iron powder, 4 ml of water, 16 ml of ethanol, and 0.2 ml of 2N hydrochloric acid was heated in an oil bath for 1 hour. The subsequent processes were conducted in the same way as in Reference Example 3 to give crude crystals. Then, 405 mg of the crude crystals were recrystallized with methanol/isopropanol to give 274 mg of crystals of 4-cyano-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine.

reactant | 4-cyano-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline | 490 mg | C(#N)C1=C(C=C(N)C(=C1)[N+](=O)[O-])N1C=CC(C=C1)=O | C12H8N4O3
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 2N, 0.2 ml | Cl | ClH
catalyst | iron | 642 mg | [Fe] | Fe
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 4-Cyano-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 274 mg | C(#N)C1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N | C12H10N4O
